US04153596
(b) N-Methoxymethyl-N'-(1-ethyl-2,2,6,6-tetramethylpiperidine-4-yl)-urea (stabiliser according to the invention)
46 parts of N-methoxymethyl-N'-1-ethyl-2,2,6,6-tetramethylpiperidine-4-yl urea are obtained by reacting 36.6 parts of 4-amino-1-ethyl-2,2,6,6-tetramethylpiperidine with methoxymethyl isocyanate in the same way as described in Example 22(b)

reactant | 4-amino-1-ethyl-2,2,6,6-tetramethylpiperidine | NC1CC(N(C(C1)(C)C)CC)(C)C | C11H24N2
reactant | methoxymethyl isocyanate | COCN=C=O | C3H5NO2
product | N-Methoxymethyl-N'-(1-ethyl-2,2,6,6-tetramethylpiperidine-4-yl)-urea | COCNC(=O)NC1CC(N(C(C1)(C)C)CC)(C)C | C14H29N3O2
